US08044213B2
To a mixture of 0.656 g (5 mmole) of 2-morpholin-4-yl-ethanol and 20 mL of dichloromethane at 0 degrees was added 2.49 g (7.5 mmole) of carbon tetrabromide and then 1.57 g (6 mmole) of triphenylphosphine. The mixture was stirred at ambient temperature overnight. The mixture was concentrated under reduced pressure and 50 mL of hexanes was added. The solid was removed by filtration and the filtrate was concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with ethyl acetate-hexanes (gradient 0:100-30:70) gave 0.580 g of 4-(2-bromo-ethyl)-morpholine as a colorless oil.

reactant | 2-morpholin-4-yl-ethanol | 5 mmole, 0.656 g | N1(CCOCC1)CCO | C6H13NO2
reactant | carbon tetrabromide | 7.5 mmole, 2.49 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 6 mmole, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(2-bromo-ethyl)-morpholine | 0.580 g | BrCCN1CCOCC1 | C6H12BrNO
